US07294637B2
[1-(4-Chloro-phenyl)-cyclobutyl-[3-(4-trifluoromethyl-phenoxymethyl)-azepan-1-yl]-methanone
To a room temperature solution of [1-(4-Chloro-phenyl)-cyclobutyl]-(3-hydroxymethyl-azepan-1-yl)-methanone (0.3307 g, 1.15 mmol) in tetrahydrofuran (5.75 mL, 0.2M) under N2 was added triphenyl phosphine (0.9050 g, 3.45 mmol) and 4-trifluoromethylphenol (0.56 mL, 3.45 mmol). The solution was cooled to 0° C., then diethyl azodicarboxylate (0.54 mL, 3.1 mmol) was added dropwise over 10 minutes. When the reaction was complete by H PLC (2 hours), ethyl acetate and 10% aqueous NaOH was added. The organics were removed, dried with Na2SO4, concentrated, then taken up in Hexanes/ethyl acetate (70:30) and filtered to remove triphenyl phosphine oxide. The remaining yellow oil was purified by silica gel chromatography (3:1 to 2:3 Hexanes:ethyl acetate). The product was further purified by silica gel chromatography with 9:1 hexanes:ethyl acetate to obtain pure product in 26% yield (0.1301 g). Partial 1H NMR (CDCl3, 300 MHz) 7.55 (2H, t, J=8.7 Hz), 7.36-7.26 (4H, m), 6.92 (2H, dd, J=34.9, 8.7 Hz), 4.00-3.85 (2H, m), ppm. Partial 13C NMR (CDCl3, 75 MHz) 174.95, 161.66, 142.17, 132.35, 129.10, 126.95, 126.77, 114.61, 114.61, 71.50, 71.10 ppm. LRMS: 465.26.

reactant | [1-(4-Chloro-phenyl)-cyclobutyl]-(3-hydroxymethyl-azepan-1-yl)-methanone | 1.15 mmol, 0.3307 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)N1CC(CCCC1)CO | C18H24ClNO2
reactant | triphenyl phosphine | 3.45 mmol, 0.9050 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-trifluoromethylphenol | 3.45 mmol, 0.56 mL | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | diethyl azodicarboxylate | 3.1 mmol, 0.54 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | NaOH | [OH-].[Na+]
solvent | tetrahydrofuran | 0.2M, 5.75 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Chloro-phenyl)-cyclobutyl-[3-(4-trifluoromethyl-phenoxymethyl)-azepan-1-yl]-methanone | 26% yield | ClC1=CC=C(C=C1)C1(CCC1)C(=O)N1CC(CCCC1)COC1=CC=C(C=C1)C(F)(F)F | C25H27ClF3NO2
